US04963547
A suspension of 5-chloro-3-[N-(2,2-dimethoxyethyl)-N-methyl(aminomethyl)]benzo[b]thiophene-2-carboxylic acid (5.0 g, 14.5 mmol) in methylene chloride-tetrahydrofuran was stirred at 0° C. and treated with excess diazomethane in ethyl ether. The mixture was stirred for 2 hours at 0° C., treated with a stream of argon and concentrated to give 5.0 g (96%) of methyl 5-chloro-3-[N-(2,2-dimethoxyethyl)-N-methyl(aminomethyl)]benzo[b]thiophene-2-carboxylate.

reactant | 5-chloro-3-[N-(2,2-dimethoxyethyl)-N-methyl(aminomethyl)]benzo[b]thiophene-2-carboxylic acid | 14.5 mmol, 5.0 g | ClC1=CC2=C(SC(=C2CN(C)CC(OC)OC)C(=O)O)C=C1 | C15H18ClNO4S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methylene chloride tetrahydrofuran | C(Cl)Cl.O1CCCC1
solvent | ethyl ether | C(C)OCC | C4H10O
product | methyl 5-chloro-3-[N-(2,2-dimethoxyethyl)-N-methyl(aminomethyl)]benzo[b]thiophene-2-carboxylate | 5.0 g, 96% | ClC1=CC2=C(SC(=C2CN(C)CC(OC)OC)C(=O)OC)C=C1 | C16H20ClNO4S
